US04402733
(b) Production of (1-ethylcyclopropyl)-glyoxylic acid tert-butylamide
10 g of H2SO4 (98%) is added dropwise at 0°-5° C., in the course of 10 minutes, to a solution of 12.3 g of 1-ethylcyclopropanecarboxylic acid cyanide in 13 g of tert-butanol and 13 ml of methylene chloride. The solution is subsequently stirred for 4 hours at room temperature; 2 ml of H2O is then added and stirring is continued for a further 30 minutes. The pH value of the solution is brought to 6 with 80 ml of ZnNaOH, and the organic phase is separated. After removal of the solvent, the residue is crysrallised out from 50 ml of petroleum ether (b.p. 40° to 65° C.) at 50° C. to thus yield 13.1 g of white crystals of pure (1-ethylcyclopropyl)-glyoxylic acid tert-butylamide having a melting point of 37.5°-39° C.

reactant | H2SO4 | 10 g | OS(=O)(=O)O | H2O4S
reactant | 1-ethylcyclopropanecarboxylic acid cyanide | 12.3 g | C(C)C1(CC1)C(=O)C#N | C7H9NO
reactant | H2O | 2 ml | O | H2O
solvent | tert-butanol | 13 g | C(C)(C)(C)O | C4H10O
solvent | methylene chloride | 13 ml | C(Cl)Cl | CH2Cl2
product | (1-ethylcyclopropyl)-glyoxylic acid tert-butylamide | C(C)(C)(C)NC(C(=O)C1(CC1)CC)=O | C11H19NO2
